US07135466B2
2-(2-Pyridyl)ethyl N-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-2-methoxyphenyl}carbamate
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-methoxyaniline (100 mg) was added to toluene (10 ml) and triethylamine (1 ml), and the mixture was heated under reflux to prepare a solution. A solution of triphosgene (140 mg) in methylene chloride was then added thereto, and the mixture was heated under reflux for 10 min. Next, 2-(2-pyridyl)-1-ethanol (58 mg) was added thereto, and the mixture was further stirred with heating under reflux for 3 hr. A saturated aqueous sodium bicarbonate solution was added to stop the reaction, and the reaction solution was then extracted with chloroform, and the extract was washed with water and saturated brine in that order. The extract was dried over sodium sulfate and was then concentrated. The residue was purified on a column using chloroform/methanol to give the title compound (110 mg, yield 75%).

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-methoxyaniline | 100 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(N)C=C1)OC | C17H17N3O4
reactant | triphosgene | 140 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-(2-pyridyl)-1-ethanol | 58 mg | N1=C(C=CC=C1)CCO | C7H9NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Pyridyl)ethyl N-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-2-methoxyphenyl}carbamate | 110 mg, yield 75% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(OCCC1=NC=CC=C1)=O)OC | C25H24N4O6
